US04073795
1-Acetyl-4-(4-chloro-2-nitrophenyl)-2,3-dihydro-1H-pyrrole-2,2-dicarboxylic acid diethyl ester
A solution of 143.0 g (0.676 mol) of 2-(4-chloro-2-nitrophenyl) acrolein in 600 ml. of benzene was added over 1.5 hour to a stirred suspension of 148.5 g (0.684 mol) of diethyl acetamidomalonate and 0.80 g of sodium methoxide in 600 ml. of benzene. The Michael addition was complete after 30 minutes. 3.8 g of p-toluenesulfonic acid monohydrate was added and the mixture was heated at reflux for 40 minutes with constant removal of the water formed. The reaction mixture was washed with saturated sodium bicarbonate and brine. After drying with anhydrous NaSO4, the orange solution was concentrated to yield 278.5 g, m.p. 90°-95°. Crystallization from ethanol (500 ml) gave 264.6 g (95%) of deep yellow crystals, m.p. 96°-98°. A sample was recrystallized again from ethanol: m.p. 96.5°-98°.

reactant | 2-(4-chloro-2-nitrophenyl) acrolein | 0.676 mol, 143.0 g | ClC1=CC(=C(C=C1)C(C=O)=C)[N+](=O)[O-] | C9H6ClNO3
reactant | diethyl acetamidomalonate | 0.684 mol, 148.5 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | sodium methoxide | 0.80 g | C[O-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 3.8 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | water | O | H2O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-Acetyl-4-(4-chloro-2-nitrophenyl)-2,3-dihydro-1H-pyrrole-2,2-dicarboxylic acid diethyl ester | C(C)OC(=O)C1(N(C=C(C1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])C(C)=O)C(=O)OCC | C18H19ClN2O7
